US04166129
Preparation of N-benzoyl-N'-(2,2,2-trichloroethylidene)hydrazine (Compound No. 1)
10 g (0.073 mol) of benzoylhydrazine were suspended in benzene, 200 ml, and 18.3 g (0.124 mol) of chloral were added dropwise to the suspension which was then refluxed under agitation for 3 hours. Upon cooling, the sedimented crystals were collected by filtration and washed well with benzene. In this way, white brown crystals, 19 g, were obtained substantially quantatively. m.p. 188°-189° C. (decomposed). When recrystallized from acetone, the Compound No. 1, m.p. 194°-195° (decomposed), was obtained in white needles. Yield: 15.4 g (81% of the theoretical).

reactant | benzoylhydrazine | 0.073 mol, 10 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | chloral | 0.124 mol, 18.3 g | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-benzoyl-N'-(2,2,2-trichloroethylidene)hydrazine | C(C1=CC=CC=C1)(=O)NN=CC(Cl)(Cl)Cl | C9H7Cl3N2O
